US04018773
trans-1,2,3,4-Tetrahydro-5,8-dimethoxy-3-[4-(2-methoxyphenyl)-1-piperazinyl]-2-naphthalenol
A solution of 4.12 g of 6,7-epoxy-5,6,7,8-tetrahydro-1,4-dimethoxynaphthalene, 4.81 g of 1-(o-methoxyphenyl)piperazine, and 1.53 ml of isopropyl alcohol in 20 ml of xylene is refluxed under nitrogen for 19 hours. The xylene is removed in vacuo and the residue triturated with ether to give 4.01 g of crude material. Two recrystallizations of this material from ethyl acetate yield 2.5 g of the title compound, melting point 182°-183° C.

reactant | 6,7-epoxy-5,6,7,8-tetrahydro-1,4-dimethoxynaphthalene | 4.12 g | O1C2CC=3C(=CC=C(C3CC21)OC)OC | C12H14O3
reactant | 1-(o-methoxyphenyl)piperazine | 4.81 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | isopropyl alcohol | 1.53 ml | C(C)(C)O | C3H8O
solvent | xylene | 20 ml | C=1(C(=CC=CC1)C)C | C8H10
product | trans-1,2,3,4-Tetrahydro-5,8-dimethoxy-3-[4-(2-methoxyphenyl)-1-piperazinyl]-2-naphthalenol | 4.01 g | COC1=C2C[C@H]([C@@H](CC2=C(C=C1)OC)O)N1CCN(CC1)C1=C(C=CC=C1)OC | C23H30N2O4
